US06800640B2
A stirred solution of 2-chloro-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone (12.5 g) in TFA at room temperature is treated with triethylsilane (72 mL, 7 eq.), stirred for 16 h, diluted with EtOAc and saturated sodium carbonate to pH 8. The phases are separated and the organic phase is dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, 10% EtOAc in ether as eluent) to give the title pyrrolo[2,3-b]pyridine compound, identified by NMR and mass spectral analyses.

reactant | 2-chloro-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone | 12.5 g | ClCC(=O)C1=CNC2=NC=CC=C21 | C9H7ClN2O
reactant | triethylsilane | 72 mL, 7 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | pyrrolo[2,3-b]pyridine | N1C=CC=2C1=NC=CC2 | C7H6N2
